### PR TITLE
[Merged by Bors] - feat(Topology/MetricSpace/Gluing): Inductive limits of separable spaces are separable

### PR DESCRIPTION
**Pull request by luigi-massacci**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Gluing.lean [hunk 1]
```diff
@@ -612,6 +612,26 @@ theorem toInductiveLimit_commute (I : ∀ n, Isometry (f n)) (n : ℕ) :
...
+  rintro ⟨n, x⟩
+  refine mem_closure_iff.mpr (fun ε hε ↦ ?_)
+  obtain ⟨b, hb⟩ := mem_closure_iff.mp (hdX n x) ε hε
+  refine ⟨toInductiveLimit I n b, ?_, ?_⟩
+  · simp only [s, mem_iUnion, mem_image]
+    refine ⟨n, b, hb.1, rfl⟩
+  · convert hb.2
+    change inductiveLimitDist f ⟨n, x⟩ ⟨n, b⟩ = dist x b
+    rw [inductiveLimitDist_eq_dist I ⟨n, x⟩ ⟨n, b⟩ n (le_refl n) (le_refl n), leRecOn_self,
+        leRecOn_self]
```
Comment (Paul-Lez) [inline Mathlib/Topology/MetricSpace/Gluing.lean:632]: Here's one possible golf: 
```suggestion
obtain ⟨b, ⟨hb1, hb2⟩⟩ := mem_closure_iff.mp (hdX n x) ε hε
  refine ⟨toInductiveLimit I n b, ?_, ?_⟩
  · simpa only [s, mem_iUnion, mem_image] using ⟨n, b, hb1, rfl⟩
  · rwa [show dist _ _ = inductiveLimitDist f ⟨n, x⟩ ⟨n, b⟩ by rfl, inductiveLimitDist_eq_dist I
      ⟨n, x⟩ ⟨n, b⟩ n (le_refl n) (le_refl n), leRecOn_self, leRecOn_self]
```

Comment (luigi-massacci) [reply Mathlib/Topology/MetricSpace/Gluing.lean]: Seems eminently reasonable, thank you

File: Mathlib/Topology/MetricSpace/Gluing.lean [hunk 2]
```diff
@@ -612,6 +612,24 @@ theorem toInductiveLimit_commute (I : ∀ n, Isometry (f n)) (n : ℕ) :
...
+  choose hsX hcX hdX using (fun n ↦ TopologicalSpace.exists_countable_dense (X n))
+  let s := ⋃ (i : ℕ), (toInductiveLimit I i '' (hsX i))
+  refine ⟨s, countable_iUnion (fun n => (hcX n).image _), ?_⟩
+  rintro ⟨n, x⟩
+  refine mem_closure_iff.mpr (fun ε hε ↦ ?_)
+  obtain ⟨b, ⟨hb1, hb2⟩⟩ := mem_closure_iff.mp (hdX n x) ε hε
+  refine ⟨toInductiveLimit I n b, ?_, ?_⟩
+  · simpa only [s, mem_iUnion, mem_image] using ⟨n, b, hb1, rfl⟩
+  · rwa [show dist _ _ = inductiveLimitDist f ⟨n, x⟩ ⟨n, b⟩ by rfl, inductiveLimitDist_eq_dist I
+      ⟨n, x⟩ ⟨n, b⟩ n (le_refl n) (le_refl n), leRecOn_self, leRecOn_self]
```
Comment (j-loreaux) [inline Mathlib/Topology/MetricSpace/Gluing.lean:629]:
```suggestion
  refine .of_closure <| (dense_iUnion_range_toInductiveLimit I).mono <| iUnion_subset fun i ↦ ?_
  calc
    range (toInductiveLimit I i) ⊆ closure (toInductiveLimit I i '' (hsX i)) :=
      (toInductiveLimit_isometry I i |>.continuous).range_subset_closure_image_dense (hdX i)
    _ ⊆ closure s := closure_mono <| subset_iUnion (fun j ↦ toInductiveLimit I j '' hsX j) i
```

**Review by j-loreaux — COMMENTED** [review]
I think you should prove a lemma first:
```lean
theorem dense_iUnion_range_toInductiveLimit
    {X : ℕ → Type u} [(n : ℕ) → MetricSpace (X n)]
    {f : (n : ℕ) → X n → X (n + 1)}
    (I : ∀ (n : ℕ), Isometry (f n)) :
    Dense (⋃ i, range (toInductiveLimit I i)) := by
  sorry
```
The point would be to give a higher-level proof of your theorem, as the suggestion below shows.

Of course, this is not the most general lemma you could write, but it's a nice one to have around.

**Comment by j-loreaux** [comment]
Tangent: why do we have this only for `ℕ` instead of a more general category-theoretic inductive limit?

File: Mathlib/Topology/MetricSpace/Gluing.lean (hunk 2 above)
Comment (luigi-massacci) [reply Mathlib/Topology/MetricSpace/Gluing.lean:629]: Seems fair, I’ll get to it tomorrow.

**Comment by j-loreaux** [comment]
@luigi-massacci note that the diff on this is crazy. I think you had a merge done in a non-ideal way.

**Comment by j-loreaux** [comment]
bors d-

**Comment by j-loreaux** [comment]
Let me know when this is fixed and I can merge it.

**Comment by luigi-massacci** [comment]
Yes I realised I messed up somehow which is why I didn’t go forward. I’ll just revert and see what happens. I think the problem is that my local branch was behind the remote one somehow and that messed up the merge with master.

**Comment by grunweg** [comment]
Coming here from PR triage: would you like help with fixing the merge?

**Comment by luigi-massacci** [comment]
> Coming here from PR triage: would you like help with fixing the merge?

Thank you for your availability, but I wasn't progressing because I had exams, not because I was trying and failing. Let's see if what I've just done worked....

**Comment by luigi-massacci** [comment]
Ok, I think it should be good now?

**Comment by j-loreaux** [comment]
Thanks!

bors merge
